* COPYRIGHT OF ELANTEC, INC.
*
*This library of macromodels is being supplied to users as an  aid 
*to   circuit  designs.    While  it  reflects  reasonably   close 
*similarity  to the actual device in terms of performance,  it  is 
*not  suggested  as a replacement for  breadboarding.   Simulation 
*should be used as a forerunner or a supplement to traditional lab 
*testing.
*
*Users  should very carefully note the following factors regarding 
*these models:
*
*Model performance in general will reflect typical baseline  specs 
*for a given device, and certain aspects of performance may not be 
*modeled  fully  to  keep  the model as simple  as  possible  thus 
*minimizing  computer running time.  For example,  PSRR  and  CMRR 
*effects,  parametric variation with temperature,  operation under 
*output short circuit conditions,  and input noise sources are not 
*included in the models.
*
*While  reasonable  care has been taken in their  preparation,  we 
*cannot  be  responsible for correct application on  any  and  all 
*computer  systems.  Model  users are hereby notified  that  these 
*models  are  supplied  "as  is",   with  no  direct  or   implied 
*responsibility on the part of Elantec,  Inc.  for their operation 
*within  a  customer circuit or  system.   Further,  Elantec  Inc. 
*reserves the right to change these models without prior notice.
* 
*In all cases, the current data sheet information for a given real 
*device  is  your final design guideline,  and is the only  actual 
*performance guarantee.   For further technical information, refer 
*to individual device data sheets.
*
*The  Elantec  Engineering staff is in the  process  of  improving 
*these  models,   and  we  welcome  your  comments  and  feedback. 
*Inquiries should be made to:
*
*                  Applications Engineering Manager
*                  Elantec, Inc.
*                  1996 Tarob Ct. 
*                  Milpitas, CA 95035
*
*Voice Telephone:  (800) 333-6314, ext. 311
*
*FAX: (408) 945-9305   
*
*TELEX: 910-997-0649            
*EL2018 Macromodel
* Connections:       +input
*                      |  -input
*                      |    |   +V
*                      |    |    |   -V     
*                      |    |    |    | Output __    
*                      |    |    |    |    |   CS    __
*                      |    |    |    |    |    |    LE  
*                      |    |    |    |    |    |    |  
*                      |    |    |    |    |    |    |
.subckt EL2018/EL      2    3    8    4    7    5    6
*
*Input Stage 
*
i1 8 10 700uA
r1 13 4 1K
r2 14 4 1K
q1  8 3 11  qn
q2  8 2 12  qn
q3 13 11 10 qp 
q4 14 12 10 qp 
i2 11 4 200uA
i3 12 4 200uA          
*
* 2nd Stage & Flip Flop
*
*i4 8 24 700uA  
i4 8 24 1mA
q9  22  6 24 qp
q10 18 17 24 qp
v1 17 0 2.5V
q5 15 14 22 qp 
q6 16 13 22 qp
r3 15 4 1K
r4 16 4 1K
q7 16 15 18 qp
q8 15 16 18 qp
*
* Output Stage  
* 
i7 8 35 2mA
s1 35 20 5 0 sw
d2 35 8 ds
i6 26 34 5mA
s2 34 4 5 0 sw
d3 34 26 ds
q19 8 20 21 qn 2
q20 4 19  7 qp 2
r8 21  7 60
r7 20 19 4K
q17 19 16 26 qn 5
q18  0 15 26 qn 5
q22 20 20 30 qn 5
q23 19 19 30 qp 8
d1 0 19 ds
q21 0 17 19 qp
*
* Power Supply Current
*
ips 8 4 4mA
*
* Models 
*
.model qn npn(is=2e-15 bf=400 tf=0.05nS cje=0.3pF cjc=0.2pF ccs=0.2pF)
.model qp pnp(is=0.6e-15 bf=60 tf=0.3nS cje=0.5pF cjc=0.5pF ccs=0.4pF)
.model ds d(is=2e-12 tt=0.05nS eg=0.62V vj=0.58)
.model sw vswitch(von=0.4v voff=2.5v)
.ends
*EL2019 Marcromodel
* Connections:        +input
*                       |  -input
*                       |    |    +V
*                       |    |    |   -V    
*                       |    |    |    | Output __    
*                       |    |    |    |    |   CS 
*                       |    |    |    |    |    |   Cpin 
*                       |    |    |    |    |    |    |  
*                       |    |    |    |    |    |    |
.subckt EL2019/EL       2    3    8    4    7    5    6
*
*Input Stage 
*
i1 8 10 700uA
r1 13 4 1K
r2 14 4 1K
q1  8 3 11  qn
q2  8 2 12  qn
q3 13 11 10 qp 
q4 14 12 10 qp 
i2 11 4 200uA
i3 12 4 200uA          
*
* 2nd Stage & Flip Flop
*
*i4 8 24 700uA  
i4 8 24 1mA
q9  22  6 24 qp
q10 18 17 24 qp
v1 17 0 2.5V
q5 15 14 22 qp 
q6 16 13 22 qp
r3 15 4 1K
r4 16 4 1K
q7 16 15 18 qp
q8 15 16 18 qp
i5 8 40 500uA
q11 41 17 40 qp
q12 42  6 40 qp
q13 43 16 41 qp
q14 44 15 41 qp  
q15 44 43 42 qp
q16 43 44 42 qp
r5 43 4 1K
r6 44 4 1K
*
* Output Stage  
* 
i7 8 35 2mA
s1 35 20 5 0 sw
d2 35 8 ds
i6 26 34 5mA
s2 34 4 5 0 sw
d3 34 26 ds
q19 8 20 21 qn 2
q20 4 19  7 qp 2
r8 21 7 60
r7 20 19 4K
q17 19 44 26 qn 5
q18  0 43 26 qn 5
q22 20 20 30 qn 5
q23 19 19 30 qp 8
d1 0 19 ds
q21 0 17 19 qp
*
* Power Supply Current
*
ips 8 4 4mA
*
* Models 
*
.model qn npn(is=2e-15 bf=400 tf=0.05nS cje=0.3pF cjc=0.2pF ccs=0.2pF)
.model qp pnp(is=0.6e-15 bf=60 tf=0.3nS cje=0.5pF cjc=0.5pF ccs=0.4pF)
.model ds d(is=2e-12 tt=0.05nS eg=0.62V vj=0.58)
.model sw vswitch(von=0.4v voff=2.5v)
.ends
*EL2022 Macromodel 
* Connections:          +input
*                       | -input
*                       |    |  +Vcc    
*                       |    |    | -Vee 
*                       |    |    |    | Ootput
*                       |    |    |    |    |  Vcc coll
*                       |    |    |    |    |    |  -Vcc coil
*                       |    |    |    |    |    |    |
.subckt EL2022/EL       6    5    1    9    11   12   10
*
* Input Stage 
*
e1 30 0 6 0 1.0
r1 5 43 25  
l1 43 42 29nH
vis 30 41 0V 
h4 41 42 v1 1.0
h1 31 0 vis 1.0
r2 31 0 1K
v1 40 0 0v
r4 40 0 1K
ivos 0 40 5mA
*
* High Frequency Pole  
*
e2 32 0 31 0 1.0  
r5 32 0 1K
r6 32 33 1K
l2 33 34 0.1uH
c1 34 0 0.2pF
*
* Transimpedance Stage
* 
gm 0 35 34 0 1.0
rol 35 0 130K
c2 35 0 4pF
*
* Output Stage 
*
q1 9 35 36 qp 
q2 1 35 39 qn 
q3 12 36 37 qn 
q4 10 39 38 qp 
r7 37 11 2 
r8 38 11 2
ios1 1 36 2.5mA
ios2 39 9 2.5mA
*
* Supply & Bias Current
*
ips 1 9 14mA
iin- 6 0 5uA
iin+ 0 5 10uA 
*
* Models
*
.model qn npn(is=5e-15 bf=100 tf=0.1nS)
.model qp pnp(is=5e-15 bf=100 tf=0.1nS)
*
.ends
* EL2157/EL2257 Macromodel 
* Revision A, July 1995
* Applications Hints:
* When not being used, the clamp pin, pin 1, should be connected to Vcc.
*
* connections:        +input
*                       |  -input
*                       |    | +Vsupply
*                       |    |    | -Vsupply
*                       |    |    |    |  output  
*                       |    |    |    |    |   clamp
*                       |    |    |    |    |     |
.subckt EL2157/EL       3    2    7    4    6     1 
*
* Input stage 
*
i1  7 10 250uA
i2  7 11 250uA
r1 10 11 4K
q1 12  2 10 qp
q2 13  3 11 qpa
r2 12  4 100
r3 13  4 100
*
* Second Stage & Compensation
*
gm 15 4 13 12 4.6m   
r4 15 4 15Meg
c1 15 4 0.36pF
*
* Poles
*
e1 17  4 15 4 1.0
r6 17 25 0.4K
c3 25  4 1pF
r7 25 18 0.5K  
c4 18  4 1pF  
*
* Output Stage & Clamp
* 
i3 20 4 1.0mA
v1 23 4 1.0v   
q3  7 23 20 qn
q4  7 18 19 qn
q5  7 18 21 qn 
q6  4 20 22 qp
q7  7 23 18 qn
d1 19 20 da
d2 18  1 da
r8 21 6 2
r9 22 6 2
r10 18 21 10k
*
* Power Supply Current
*
ips 7 4 3.2mA
*
* Models 
*
.model qn  npn(is=800e-18 bf=150 tf=0.02nS)
.model qpa pnp(is=810e-18 bf=50 tf=0.02nS)
.model qp  pnp(is=800e-18 bf=54 tf=0.02nS)
.model da d(tt=0nS)
.ends
*EL2252 Marcromodel
* Connections:        +input
*                       |  -input
*                       |    |    +V
*                       |    |    |    -V    
*                       |    |    |    | Output ___  
*                       |    |    |    |    |   TTL
*                       |    |    |    |    |    |   HYS  
*                       |    |    |    |    |    |    |  
*                       |    |    |    |    |    |    |
.subckt EL2252/EL       2    3    14   7    13   5    4 
*
* Application Hints:
*
* Connect pin 4 to ground through 1000 Megohm resistor to inhibit
* Hysteresis; to invoke Hysteresis, connect pin 4 to V-.
*
* Connect pin 5 to ground to invoke TTL Voh; pin 5 may left open
* for CMOS Voh.
*
* To faciltate .OP, set itl1 = 200, itl2 = 200, set node 27 to 13.8
* volts, and node 30 to -12 volts.  As an example, if you called your
* subckt x1, then the following statement should be added to your deck:
* 
* .NODESET V(x1.27)=13.8 V(x1.30)=-12
*
*Input Stage 
*
i1  22  7 1.7mA
r1  14 20 300
r2  14 21 300
q1  20  2 22 qn
q2  21  3 22 qn
q3  20 26 23 qn 
q4  21 25 23 qn
q13 25 27 20 qp
q14 26 27 21 qp
v1  14 27 1.2v 
r3  23 24 1.4K
d1  24 4 ds
r4  25 33 700
r5  26 33 700
q16 33 33 34 qn
q17 34 34 37 qn
v4  37 7 1.2v         
*
* 2nd Stage 
*
i2 30 7  3mA   
i3 14 28 1.5mA
q7  0 35 28 qp
v2  44 0 1.2V
s1  44 35 5 0 swa
s2  45 35 5 0 swb
rsw 14 5 10K
v3  45 0 2.5v
q5  0 26 30 qn
q6 28 25 30 qn 
d3 0 28 ds
*
* Output Stage  
* 
i4 14 38 1mA
q8 38 38 39 qn
q9 32 32 39 qp
q10 7 28 32 qp
q11 14 38 40 qn 2
q12  7 28 13 qp 2
r6 40 13 50
c1 28 0 3pF
*
* Models 
*
.model qn npn(is=2e-15 bf=120 tf=0.2nS cje=0.2pF cjc=0.2pF ccs=0.2pF)
.model qp pnp(is=0.6e-15 bf=60 tf=0.2nS cje=0.5pF cjc=0.3pF ccs=0.2pF)
.model ds d(is=3e-12 tt=0.05nS eg=0.72V vj=0.58)
.model swa vswitch(von=0v voff=2.5v)
.model swb vswitch(von=2.5 voff= 0v) 
.ends
*EHA2500 Macromodel 
* Connections:        +input
*                       |  -input
*                       |    | +Vsupply
*                       |    |    | -Vsupply
*                       |    |    |    |  output
*                       |    |    |    |    |   comp
*                       |    |    |    |    |    |
.subckt EL2500/EL       3    2    7    4    6    8
*
*Input Stage 
*
ie 37 4 425uA
r6 36 37 1.6K
r7 38 37 1.6K
rc1 7 30 1.7K
rc2 7 39 1.7K
q1 30 3 36 qn
q2 39 2 38 qna
ediff 33 0 39 30 1.00
rdiff 33 0 1Meg
*
* Compensation Section 
*
ga 0 8 33 0 0.5m
rh 8 0 79.6Meg
ch 8 0 9pF
rc 8 40 1K
cc 40 0 1pF
*
* Poles
*
ep 41 0 40 0 1
rpa 41 42 1K
cpa 42 0 2pF
rpb 42 43 1K
cpb 43 0 4pF
*
* Output Stage 
* 
ios1 7 50 1.0mA
ios2 51  4 1.0mA
q3  4 43 50 qp 
q4 7 43 51 qn
q5 7 50 52 qn
q6 4 51 53 qp 
ros1 52 6 25
ros2 6 53 25
*
* Power Supply Current
*
ips 7 4 1mA
*
* Models  
*
.model qn npn(is=800e-18 bf=2e3 tf=0.2nS)
.model qna npn(is=864e-18 bf=2.5e3 tf=0.2nS)
.model qp pnp(is=800e-18 bf=2e3 tf=0.2nS)
.ends
*EHA2520 Macromodel 
* Connections:        +input
*                       | -input
*                       |    | +Vsupply
*                       |    |    | -Vsupply
*                       |    |    |    |  output
*                       |    |    |    |    |   comp
*                       |    |    |    |    |    |
.subckt EL2520/EL       3    2    7    4    6    8
*
*Input Stage 
*
ie 37 4 425uA
r6 36 37 1.6K
r7 38 37 1.6K
rc1 7 30 1.7K
rc2 7 39 1.7K
q1 30 3 36 qn
q2 39 2 38 qna
ediff 33 0 39 30 1.00
rdiff 33 0 1Meg
*
* Compensation Section 
*
ga 0 8 33 0 0.5m
rh 8 0 79.6Meg
ch 8 0 1.5pF
rc 8 40 1K
cc 40 0 1pF
*
* Poles
*
ep 41 0 40 0 1
rpa 41 42 1K
cpa 42 0 2pF
rpb 42 43 1K
cpb 43 0 4pF
*
* Output Stage 
* 
ios1 7 50 1.0mA
ios2 51  4 1.0mA
q3  4 43 50 qp 
q4 7 43 51 qn
q5 7 50 52 qn
q6 4 51 53 qp 
ros1 52 6 25
ros2 6 53 25
*
* Power Supply Current
*
ips 7 4 1mA
*
* Models  
*
.model qn npn(is=800e-18 bf=2e3 tf=0.2nS)
.model qna npn(is=864e-18 bf=2.5e3 tf=0.2nS)
.model qp pnp(is=800e-18 bf=2e3 tf=0.2nS)
.ends
*EHA2600 Macromodel 
* Connections:        +input
*                       |  -input
*                       |    | +Vsupply
*                       |    |    | -Vsupply
*                       |    |    |    |  output
*                       |    |    |    |    |   comp
*                       |    |    |    |    |    |
.subckt EL2600/EL       3    2    7    4    6    8
*
*Input Stage 
*
ie 37 4 26uA
r6 36 37 1K
r7 38 37 1K
rc1 7 30 3K
rc2 7 39 3K
q1 30 3 36 qn
q2 39 2 38 qna
ediff 33 0 39 30 1.00
rdiff 33 0 1Meg
*
* Compensation Section 
*
ga 0 8 33 0 1m
rh 8 0 150Meg
ch 8 0 6pF
rc 8 40 1K
cc 40 0 4pF
*
* Poles
*
ep 41 0 40 0 1
rpa 41 42 200
cpa 42 0 8pF
rpb 42 43 1K
cpb 43 0 8pF
*
* Output Stage 
* 
ios1 7 50 1.0mA
ios2 51 4 1.0mA
q3  4 43 50 qp 
q4 7 43 51 qn
q5 7 50 52 qn
q6 4 51 53 qp 
ros1 52 6 25
ros2 6 53 25
*
* Power Supply Current
*
ips 7 4 0.5mA
*
* Models  
*
.model qn  npn(is=800e-18 bf=5e3 tf=0.2nS)
.model qna npn(is=864e-18 bf=6e3 tf=0.2nS)
.model qp  pnp(is=800e-18 bf=5e3 tf=0.2nS)
.ends
*EHA2620 Macromodel 
* Connections:          +input
*                       | -input
*                       |    | +Vsupply
*                       |    |    |    -Vsupply
*                       |    |    |    |  output
*                       |    |    |    |    |   comp
*                       |    |    |    |    |    |
.subckt EL2620/EL       3    2    7    4    6    8
*
*Input Stage 
*
ie 37 4 26uA
r6 36 37 1K
r7 38 37 1K
rc1 7 30 3K
rc2 7 39 3K
q1 30 3 36 qn
q2 39 2 38 qna
ediff 33 0 39 30 1.00
rdiff 33 0 1Meg
*
* Compensation Section 
*
ga 0 8 33 0 1m
rh 8 0 150Meg
ch 8 0 1.5pF
rc 8 40 5K
cc 40 0 1pF
*
* Poles
*
ep 41 0 40 0 1
rpa 41 42 200
cpa 42 0 8pF
rpb 42 43 1K
cpb 43 0 8pF
*
* Output Stage 
* 
ios1 7 50 1.0mA
ios2 51  4 1.0mA
q3  4 43 50 qp 
q4 7 43 51 qn
q5 7 50 52 qn
q6 4 51 53 qp 
ros1 52 6 25
ros2 6 53 25
*
* Power Supply Current
*
ips 7 4 0.5mA
*
* Models  
*
.model qn npn(is=800e-18 bf=5e3 tf=0.2nS)
.model qna npn(is=864e-18 bf=6e3 tf=0.2nS)
.model qp pnp(is=800e-18 bf=5e3 tf=0.2nS)
.ends
*EL4089 Macromodel
* Revision A, July 24 1994
*
* Connections:    Vin+
*                 | Vin-
*                 |  | +Vsupply
*                 |  |  | -Vsupply
*                 |  |  |  | Vout    
*                 |  |  |  |  | Ref 
*                 |  |  |  |  |  | Hold    
*                 |  |  |  |  |  |  |
.subckt EL4089/EL 2  1  8  6  7  3  4
********Restore section
g10 2 0 xx 0 430u
e10 yy 0 ww 3 4.66
Rfl 7 ww 8K
Cfl ww 0 20p
Rd yy ss 100 
d10 xx 0 dd
d20 0 xx dd
s1 xx ss 4 0 swno
s2 0 xx 4 0 swnc
rcl 3 0 999K
Rhh 4 0 100K
.model swno vswitch (von=0.8 voff=2.4)
.model swnc vswitch (von=2.4 voff=0.8)
********************** 
* Input Stage 
e1 10 0 2 0 1.0
vis 10 9 0V
h2 9 12 Vxx 1.0
r1 1 11 20
l1 11 12 20nH
iinp 2 0 1u
iinn 1 0 18u
r12 2 0 2MEG
* Slew Rate Limiting
h1 13 0 vis 600
r2 13 14 1k
d1 14 0 dd
d2 0 14 dd
* High Frequency Pole
e2 30 0 14 0 0.00166666666
l3 30 17 1.47u
c5 17 0 0.47p
r5 17 0 700
* Transimpedance Stage
g1 0 18 17 0 1.0
rol 18 0 800k
cdp 18 0 11p
* Output Stage
q1 6 18 19 qp
q2 8 18 20 qn
q3 8 19 21 qn
q4 6 20 22 qp
r7 21 7 3
r8 22 7 3
ios1 8 19 2mA
iso2 20 6 2mA
* Supply Current
ips 8 6 6.5mA
* Error Term
iovs 0 23 12m
Vxx 23 0 0V
e4 24 0 2 0 1.0
e5 25 0 8 0 1.0
e6 26 0 6 0 1.0
r9 23 24 560
r10 25 23 1k
r11 26 23 1k
* Models
.model qn npn (is=5e-15, bf=100, tf=0.1ns)
.model qp pnp (is=5e-15, bf=100, tf=0.1ns)
.model dclamp d(is=1e-20, ibv=0.266, bv=2.24, n=4) 
.model dd d rs=2  
.ends
